US07449478B2
A mixture of 6-[3-(1H-indol-4-yloxy)-propoxy]-7-propyl-3-trifluoromethyl-benzo[d]isoxazole (0.100 g, 0.24 mmol), methyl-2-bromoacetate (0.109 g, 0.72 mmol), potassium carbonate (0.050 g, 0.36 mmol), potassium iodide (0.008 g, 0.05 mmol), and acetonitrile (15 mL) was stirred and refluxed for 12 hours. The mixture was cooled to room temperature and filtered to remove suspended salts. The solvent was removed in vacuo and the residue partitioned between dichloromethane and water. The organic layer was collected, washed with water (2×20 mL) and brine (2×20 mL), and then dried over anhydrous Na2SO4. The solvent was removed and the residue was purified by flash chromatograph over silica gel using hexane/ethyl acetate (95/5) as an eluant to afford {4-[3-(7-propyl-3-trifluoromethyl-benzo[d]isoxazol-6-yloxy)-propoxy]-indol-1-yl}-acetic acid methyl ester (0.089 g, yield: 76%).

reactant | 6-[3-(1H-indol-4-yloxy)-propoxy]-7-propyl-3-trifluoromethyl-benzo[d]isoxazole | 0.24 mmol, 0.100 g | N1C=CC2=C(C=CC=C12)OCCCOC1=C(C2=C(C(=NO2)C(F)(F)F)C=C1)CCC | C22H21F3N2O3
reactant | methyl-2-bromoacetate | 0.72 mmol, 0.109 g | COC(CBr)=O | C3H5BrO2
reactant | potassium carbonate | 0.36 mmol, 0.050 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.05 mmol, 0.008 g | [I-].[K+]
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | {4-[3-(7-propyl-3-trifluoromethyl-benzo[d]isoxazol-6-yloxy)-propoxy]-indol-1-yl}-acetic acid methyl ester | 0.089 g, yield: 76% | COC(CN1C=CC2=C(C=CC=C12)OCCCOC1=C(C2=C(C(=NO2)C(F)(F)F)C=C1)CCC)=O | C25H25F3N2O5
